US05478827
To a suspension of sodium hydride (60% dispersion in mineral oil, 35 mg) in dry N,N-dimethylformamide (5 ml) was added a solution of 2-(4-fluorophenyl)-5-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (250 mg) in dry N,N-dimethylformamide (3 ml) dropwise under ice cooling. The mixture was stirred for 30 minutes and to the mixture was added a solution of methyl iodide (125 mg) in dry N,N-dimethylformamide (2 ml). The mixture was stirred at ambient temperature for 2 hours and poured into water. The separated oil was extracted with dichloromethane and the solution was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained crude solid was recrystallized from a mixture of dichloromethane and diisopropyl ether to give 2-(4-fluorophenyl)-4-methyl-5-oxo-3-(pyridin-4-yl)-4,5,6,7 -tetrahydropyrazolo[1,5-a]pyrimidine (180 mg).

reactant | sodium hydride | 35 mg | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-5-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 250 mg | FC1=CC=C(C=C1)C1=NN2C(NC(CC2)=O)=C1C1=CC=NC=C1 | C17H13FN4O
reactant | methyl iodide | 125 mg | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenyl)-4-methyl-5-oxo-3-(pyridin-4-yl)-4,5,6,7 -tetrahydropyrazolo[1,5-a]pyrimidine | 180 mg | FC1=CC=C(C=C1)C1=NN2C(N(C(CC2)=O)C)=C1C1=CC=NC=C1 | C18H15FN4O
